US08044075B2
2-Iodobenzoic acid (2 mmol), EDC (2 mmol), and HOBt (4 mmol) were added to 6 ml DCM and stirred at rt for 1 hour. 5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-amine (2 mmol) was added as a solution in 4 ml DMF. The reaction was stirred at rt for 1 hour and then diluted with ethyl acetate. The solution was washed with 1N HCl, sat. sodium bicarbonate, and brine. The organic layer was dried over sodium sulfate and then evaporated to give N-[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]-2-iodobenzamide (750 mg) pure by LCMS.

reactant | 2-Iodobenzoic acid | 2 mmol | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | EDC | 2 mmol
reactant | HOBt | 4 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-amine | 2 mmol | CC(C)(C)C1=NN=C(S1)N | C6H11N3S
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]-2-iodobenzamide | 750 mg | CC(C)(C)C1=NN=C(S1)NC(C1=C(C=CC=C1)I)=O | C13H14IN3OS
